US06673799B1
4-(2-Methylpiperazin-1-yl)-2-trifluoromethylbenzonitrile
A 2.85 g portion of t-butyl 4-(4-cyano-3-trifluoromethylphenyl)-3-methylpiperazine-1-carboxylate synthesized in Reference Example 3 was stirred in 50 ml of trifluoroacetic acid at 0° C. to room temperature for 2 hours. The solvent was evaporated under reduced pressure, the resulting residue was neutralized with saturated aqueous sodium bicarbonate and then extracted with ethyl acetate, the organic layer was washed and dried and then the solvent was evaporated under reduced pressure. The residue was purified by a silica gel column chromatography, and 5.6 g of the title compound was obtained from chloroform-methanol-28% aqueous ammonia (10:1:0.1, v/v/v) eluate as light yellowish white crystals.

reactant | t-butyl 4-(4-cyano-3-trifluoromethylphenyl)-3-methylpiperazine-1-carboxylate | C(#N)C1=C(C=C(C=C1)N1C(CN(CC1)C(=O)OC(C)(C)C)C)C(F)(F)F | C18H22F3N3O2
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2-Methylpiperazin-1-yl)-2-trifluoromethylbenzonitrile | 5.6 g | CC1N(CCNC1)C1=CC(=C(C#N)C=C1)C(F)(F)F | C13H14F3N3
